US04755466
Phenylalanine can be produced by adding cinnamic acid and an ammonia generator to the culture medium during cultivation. Alternatively, phenylalanine may be produced by dissolving or suspending the microbial cells (live or treated cells) in an aqueous medium containing cinnamic acid and an ammonia generator and allowing the solution or suspension to stand (with stirring when desired) while maintaining the temperature at a suitable level between 10° and 70° C.

reactant | cinnamic acid | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
reactant | ammonia | N | H3N
product | phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
